US04877792
A mixture of 11.5 g of 5-aminomethyl-3-ethyl-1,2,4-oxadiazole and 24 ml of dimethylformamide dimethylacetal is heated to 80° C. for 7 hours; during this process, 10 ml of thus-formed methanol is removed by distillation. After adding another 12 ml of DMF-acetal, the mixture is refluxed for 3 hours, then subjected to fractional distillation. The fraction passing over at 155°-160° C. and 0.03 torr, 1,4-bis(di- methylamino)-3-(3-ethyl-1,2,4-oxadiazol-5-yl)-2-aza1,3-butadiene is obtained in a yield of 72% of theory; nD20 1.5908.

reactant | 5-aminomethyl-3-ethyl-1,2,4-oxadiazole | 11.5 g | NCC1=NC(=NO1)CC | C5H9N3O
reactant | dimethylformamide dimethylacetal | 24 ml | COC(N(C)C)OC | C5H13NO2
product | 1,4-bis(di- methylamino)-3-(3-ethyl-1,2,4-oxadiazol-5-yl)-2-aza1,3-butadiene | yield of 72% | CN(C=NC(=CN(C)C)C1=NC(=NO1)CC)C | C11H19N5O
